US09029395B2
To a flask charged with 6-(((2S,4R)-1-acetyl-6-bromo-2-methyl-1,2,3,4-tetrahydroquinolin-4-yl)amino)nicotinonitrile (for a preparation see Intermediate 2) (1000 mg, 2.60 mmol), (4-(methoxycarbonyl)phenyl)boronic acid (561 mg, 3.11 mmol), tetrakis(triphenylphosphine)palladium(0) (300 mg, 0.260 mmol) and potassium carbonate (1076 mg, 7.79 mmol) was added DME (20 mL) and water (4.0 mL). The resulting mixture was stirred at 100° C. under nitrogen for 1 h, then cooled to room temperature and concentrated in vacuo. The residue was partitioned between EtOAc and water and the layers were separated. The organic phase was dried (MgSO4), concentrated in vacuo and the residue was purified by chromatography (10 g column, MeOH/DCM gradient) to give methyl 4-((2S,4R)-1-acetyl-4-((5-cyanopyridin-2-yl)amino)-2-methyl-1,2,3,4-tetrahydroquinolin-6-yl)benzoate (1002 mg, 2.275 mmol, 88% yield) as an orange foam. LCMS (HpH, 2 min), Rt=1.09 min, MH+=441.

reactant | 6-(((2S,4R)-1-acetyl-6-bromo-2-methyl-1,2,3,4-tetrahydroquinolin-4-yl)amino)nicotinonitrile | C(C)(=O)N1[C@H](C[C@H](C2=CC(=CC=C12)Br)NC1=NC=C(C#N)C=C1)C | C18H17BrN4O
reactant | (4-(methoxycarbonyl)phenyl)boronic acid | 3.11 mmol, 561 mg | COC(=O)C1=CC=C(C=C1)B(O)O | C8H9BO4
reactant | potassium carbonate | 7.79 mmol, 1076 mg | C([O-])([O-])=O.[K+].[K+]
reactant | DME | 20 mL | COCCOC | C4H10O2
catalyst | tetrakis(triphenylphosphine)palladium(0) | 0.260 mmol, 300 mg | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
solvent | water | 4.0 mL | O | H2O
product | methyl 4-((2S,4R)-1-acetyl-4-((5-cyanopyridin-2-yl)amino)-2-methyl-1,2,3,4-tetrahydroquinolin-6-yl)benzoate | 2.275 mmol, 1002 mg, 88% yield | C(C)(=O)N1[C@H](C[C@H](C2=CC(=CC=C12)C1=CC=C(C(=O)OC)C=C1)NC1=NC=C(C=C1)C#N)C | C26H24N4O3
